US04496572
A solution of 6-bromo-3-chlorobenzo[b]thiophene-2-carboxylic acid chloride (6.20 g) in dry ether (50 ml) and dry tetrahydrofuran (50 ml) was added dropwise to a stirred suspension of lithium aluminium hydride (0.58 g) in dry ether (250 ml) at 0° under an atmosphere of dry nitrogen. The mixture was stirred at room temperature for 30 minutes and then at reflux for 21/2 hours before being cooled and allowed to stand for 18 hours. It was then cooled and the excess of lithium aluminium hydride was decomposed by the cautious addition of water (1.0 ml) followed by 5N sodium hydroxide (1.0 ml) followed by water (2.0 ml) with vigorous stirring. The mixture was filtered and the filtrate was evaporated to give a solid which was chromatographed on silica gel. Elution with chloroform first gave some impurity followed by pure product. The product containing fractions were combined and evaporated to give a solid which was crystallised from chloroform to give 6-bromo-3-chloro-2-hydroxymethylbenzo[ b]thiophene (2.22 g), m.p. 117°-118°.

reactant | 6-bromo-3-chlorobenzo[b]thiophene-2-carboxylic acid chloride | 6.20 g | BrC=1C=CC2=C(SC(=C2Cl)C(=O)Cl)C1 | C9H3BrCl2OS
reactant | lithium aluminium hydride | 0.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.0 ml | O | H2O
reactant | sodium hydroxide | 5N, 1.0 ml | [OH-].[Na+]
reactant | water | 2.0 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 6-bromo-3-chloro-2-hydroxymethylbenzo[ b]thiophene | 2.22 g | BrC=1C=CC2=C(SC(=C2Cl)CO)C1 | C9H6BrClOS
